*$
*//-----------------------------------------------------------------------//
*//   Part No.    : HHXE630ARA151MJH0G
*//   Date        : 2022/1/18
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2022 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT HHXE630ARA151MJH0G_20deg-C 1 2

C1 4 2 1.09e-04
C2 5 2 1.62e-05
C3 6 2 1.64e-05
R1 3 4 1.12e-02
R2 4 5 6.05e-01
R3 5 6 5.25e+00
L1 1 3 5.00e-09

.ENDS
*$
